US07592456B2
Step 3: (1S)-1-(2-{[6-(4-Fluorophenyl)-2-naphthyl]sulfonyl}phenyl)ethanol
The title compound was prepared from (1S)-1-{2-[(6-bromo-2-naphthyl)sulfonyl]phenyl}ethanol (2.0 g, 5.1 mmol) and 4-fluorobenzeneboronic acid (1.1 g, 7.6 mmol) according to the methods of Example 2 Step 1. Crude product was first purified by flash column chromatography eluting with a 20-80% diethyl ether/isohexane gradient then a second flash column chromatography eluting with 10% diethyl ether/dichloromethane. Crystallisation from methanol/H2O gave (1S)-1-(2-{[6-(4-fluorophenyl)-2-naphthyl]sulfonyl}phenyl)ethanol (1.73 g, 83%). 1H NMR (500 MHz, CDCl3) δ 8.55 (1H, s), 8.17 (1H, d, J 8.0 Hz), 8.05 (1H, d, J 8.6 Hz), 8.02 (1H, s), 7.97 (1H, d, J 8.7 Hz), 7.84 (1H, dd, J 1.5, 8.5 Hz), 7.76 (2H, d, J 8.4 Hz), 7.69-7.63 (3H, m), 7.49 (1H, t, J 7.2 Hz), 7.19 (2H, t, 8.6 Hz), 5.68-5.62 (1H, m), 2.49 (1H, d, J 3.1 Hz), 1.35 (3H, d, J 6.3 Hz); m/z (ES+) 389 [(M-OH)+].

reactant | (1S)-1-{2-[(6-bromo-2-naphthyl)sulfonyl]phenyl}ethanol | 5.1 mmol, 2.0 g | BrC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)C1=C(C=CC=C1)[C@H](C)O | C18H15BrO3S
reactant | 4-fluorobenzeneboronic acid | 7.6 mmol, 1.1 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
product | (1S)-1-(2-{[6-(4-fluorophenyl)-2-naphthyl]sulfonyl}phenyl)ethanol | 1.73 g, 83% | FC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)S(=O)(=O)C1=C(C=CC=C1)[C@H](C)O | C24H19FO3S
